US06107458
A mixture of Methyl 6-(1-heptynyl)naphthalene-2-carboxylate (4.51 g) and platinum oxide (0.4 g) in tetrahydrofuran was stirred under 3.5 atm pressure of hydrogen for 5 hours. The catalyst was filtered off and the filtlate was evaporated to give Methyl 6-heptylnaphthalene-2-carboxylate (4.40 g).

reactant | Methyl 6-(1-heptynyl)naphthalene-2-carboxylate | 4.51 g | C(#CCCCCC)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C19H20O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | platinum oxide | 0.4 g | [Pt]=O
product | Methyl 6-heptylnaphthalene-2-carboxylate | 4.40 g | C(CCCCCC)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C19H24O2
